US07910592B2
A mixture of silver sulfate (2.10 g; 6.75 mmol) and iodine (1.71 g; 6.75 mmol) in methanol (20 mL) was treated dropwise over 10 min with a solution of 5-methoxyindane (1 g; 6.75 mmol) in methanol (5 mL). The resultant suspension was stirred at room temperature for 3 h. The reaction was filtered and concentrated in vacuo, slurried with EtOAc (20 mL), and filtered again. The filtrate was concentrated and the residue was purified by flash silica gel chromatography (0-15% EtOAc/hexanes gradient) to afford 5-iodo-6-methoxyindane as a white solid. 1H NMR (500 MHz, CDCl3): δ 7.63 (s, 1H), 6.78 (s, 1H), 3.87 (s, 3H), 2.91-2.85 (m, 4H), 2.15-2.06 (m, 2H).

reactant | iodine | 6.75 mmol, 1.71 g | II | I2
reactant | 5-methoxyindane | 6.75 mmol, 1 g | COC=1C=C2CCCC2=CC1 | C10H12O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
catalyst | silver sulfate | 6.75 mmol, 2.10 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 5-iodo-6-methoxyindane | IC=1C=C2CCCC2=CC1OC | C10H11IO
